US06294580B1
[5-methyl-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-acetic acid methyl ester
The title compound (490 mg) was prepared from 18.7 g (104.8 mmol) of thiocarbonyldiimidazole and 10 g (99.8 mmol) of 1-methyl piperazine according to the method of intermediate 53, followed by the procedure outlined for the preparation of Intermediate 60 and purification via silica gel chromatography using MeOH/EtOAc (3:17) as eluent: TLC (MeOH/EtOAc (1:9)): Rf=0.15.

reactant | thiocarbonyldiimidazole | 104.8 mmol, 18.7 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1-methyl piperazine | 99.8 mmol, 10 g | CN1CCNCC1 | C5H12N2
reactant | MeOH EtOAc | CO.CCOC(=O)C
product | [5-methyl-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]-acetic acid methyl ester | 490 mg | COC(CC=1N=C(SC1C)N1CCN(CC1)C)=O | C12H19N3O2S
